US05853639
Polymerization and post-treatment were performed in the same manner as in Polymer Preparation Example 1 except that a mixture of 196 g of glycolide and 4 g of ethylene oxalate (1,4-dioxane-2,3-dione) was used in place of 200 g of glycolide, thereby obtaining a glycolic acid-ethylene oxalate copolymer [Polymer (P-2)]. The same process was conducted repeatedly to prepare a necessary amount of Polymer (P-2).

reactant | glycolide | 196 g | C1C(=O)OCC(=O)O1 | C4H4O4
reactant | ethylene oxalate | 4 g | C1(C(=O)OCCO1)=O | C4H4O4
product | glycolic acid ethylene oxalate | C(CO)(=O)O.C1(C(=O)OCCO1)=O | InChI=1S/C4H4O4.C2H4O3/c5-3-4(6)8-2-1-7-3;3-1-2(4)5/h1-2H2;3H,1H2,(H,4,5)
